US09216173B2
m-Tolylhydrazine (200 mg, 1.64 mmol), 3-methoxyacrylonitrile (0.137 mL, 1.64 mmol), and sodium ethoxide (111 mg, 1.64 mmol) were dissolved in ethanol (8 mL) and stirred at 80° C. for 2 hours. The reaction mixture was cooled to room temperature, concentrated under reduced pressure, and purified by silica gel chromatography (ethyl acetate/hexanes, linear gradient) to afford 1-m-tolyl-1H-pyrazol-3-amine. MS ESI calc'd. for C10H12N3 [M+H]+ 174. found 174. 1H NMR (500 MHz, DMSO-d6) δ 8.08 (s, 1H), 7.46 (s, 1H), 7.40 (d, J=8.5 Hz, 1H), 7.23 (t, J=7.8 Hz, 1H), 6.91 (d, J=7.5 Hz, 1H), 5.69 (d, J=2.5 Hz, 1H), 5.01 (s, 2H), 2.31 (s, 3H).

reactant | m-Tolylhydrazine | 1.64 mmol, 200 mg | C1(=CC(=CC=C1)NN)C | C7H10N2
reactant | 3-methoxyacrylonitrile | 1.64 mmol, 0.137 mL | COC=CC#N | C4H5NO
reactant | sodium ethoxide | 1.64 mmol, 111 mg | [O-]CC.[Na+]
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 1-m-tolyl-1H-pyrazol-3-amine | C1(=CC(=CC=C1)N1N=C(C=C1)N)C | C10H11N3
